US07790770B2
To a solution of (3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methanamine (315 mg, 1.1 mmol) in CH2Cl2 (2 mL) at 0° C. was added acetic formic anhydride (314 uL, formed by heating a 2:1 v/v ratio of acetic anhydride and formic acid at 60° C. for 2 h). The reaction mixture was allowed to warm to room temperature and stirred for 0.5 h. The reaction mixture was concentrated under reduced pressure and the residue was purified on a 40 g column of silica gel, eluting with 0 to 100% EtOAc/hexane, to give N-((3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methyl)formamide (327 mg, 94% yield) as a clear, viscous oil. LCMS: RT=1.37 min [M+H] 316.1 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% acetonitrile/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); NMR: 400 MHz 1H (CDCl3) δ ppm 6.13 (bs, 1H), 6.34 (d, J=7.47 Hz, 1H), 7.05-7.20 (m, 5H), 7.27-7.34 (m, 2H), 8.35 (s, 1H). To a solution of N-((3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methyl)formamide (327 mg, 1.04 mmol) in THF (5 mL) at 0° C. was added Et3N (0.79 mL, 5.7 mmol) followed by phosphorous oxychloride (0.125, 1.35 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 16 h. The reaction mixture was diluted with ice-water (25 mL) and extracted with Et2O (3×20 mL). The combined organic layers were washed with sat. NaCl (20 mL), dried over anhydrous Na2SO4, the filtered through basic alumina. The filtrate was concentrated to give 1-fluoro-3-((4-fluorophenyl)(isocyano)methyl)-5-(trifluoromethyl)benzene (268 mg, 93% yield) as a pale brown oil. LCMS: RT=1.71 min [M−NC] 271.0 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% acetonitrile/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); IR νmax cm−1 neat: 2139 (N═C); NMR: 500 MHz 1H (CDCl3) δ ppm 5.94 (s, 1H), 7.12 (t, J=8.52 Hz, 2H), 7.25-7.29 (m, 1H), 7.30-7.35 (m, 3H), 7.41 (s, 1H).

reactant | (3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methanamine | 1.1 mmol, 315 mg | FC=1C=C(C=C(C1)C(F)(F)F)C(N)C1=CC=C(C=C1)F | C14H10F5N
reactant | acetic formic anhydride | C(=O)OC(C)=O | C3H4O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | C(=O)O | CH2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-((3-fluoro-5-(trifluoromethyl)phenyl)(4-fluorophenyl)methyl)formamide | 327 mg, 94% yield | FC=1C=C(C=C(C1)C(F)(F)F)C(NC=O)C1=CC=C(C=C1)F | C15H10F5NO
